US07326715B2
C: 2-[2-methanesulfonyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl-amino]-ethanol
To a stirring suspension of 2-[2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl-amino]-ethanol (450 mg) in a 10:1 acetonitrile/water mixture (11 ml) was added oxone (1.93 g). The resulting suspension was stirred at room temperature for 4.5 hrs. After diluting with ethyl acetate (100 ml), washed with water (100 ml), brine (50 ml), dried over MgSO4 and concentrated in vacuo to give the title compound as a yellow gum (493 mg).

reactant | 2-[2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl-amino]-ethanol | 450 mg | CSC1=NC(=CC(=N1)NCCO)C1=CC(=CC=C1)C(F)(F)F | C14H14F3N3OS
reactant | acetonitrile water | 11 ml | C(C)#N.O
reactant | oxone | 1.93 g | OOS(=O)[O-].[K+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-methanesulfonyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-yl-amino]-ethanol | 493 mg | CS(=O)(=O)C1=NC(=CC(=N1)NCCO)C1=CC(=CC=C1)C(F)(F)F | C14H14F3N3O3S
